US08802670B2
1-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-4-methanesulfonyl-piperazin-2-one
To a solution of 4-BOC-piperazinone (0.3 g, 1.6 mmol) in DMF (3 mL) at 0° C. was added NaH (60% in mineral oil, 1.9 mmol). Next, 6-(bromomethyl)-2-chloro-4-morpholinothieno[3,2-d]pyrimidine (0.6 g, 2 mmol) was added and the reaction stirred for 15 min. The reaction was quenched with saturated NH4Cl and the aqueous layer was extracted with EtOAc. The combined organics were dried over Na2SO4 and concentrated in vacuo. This intermediate was dissolved in CH2Cl2 (40 mL) and MeOH (40 mL) and Et2O (10 mL) and cooled to 0° C. To this solution was added 4 M HCl in dioxane (20 mL). The reaction was warmed to room temperature, stirred 18 h, then was concentrated in vacuo. To the residue was added CH2Cl2 (50 mL), Et3N (1.5 mL, 11 mmol), and MeSO2Cl (0.6 mL, 8 mmol). The reaction mixture stirred 42 h at room temperature. The reaction was quenched with water and extracted with EtOAc. The combined organics were dried over Na2SO4 and concentrated in vacuo (0.25 g, 28% over 3 steps). MS (Q1) 446 (M)+

reactant | 4-BOC-piperazinone | 1.6 mmol, 0.3 g | C(=O)(OC(C)(C)C)N1CC(NCC1)=O | C9H16N2O3
reactant | NaH | 1.9 mmol | [H-].[Na+]
reactant | 6-(bromomethyl)-2-chloro-4-morpholinothieno[3,2-d]pyrimidine | 2 mmol, 0.6 g | BrCC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C11H11BrClN3OS
reactant | Et3N | 11 mmol, 1.5 mL | CCN(CC)CC | C6H15N
reactant | MeSO2Cl | 8 mmol, 0.6 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-4-methanesulfonyl-piperazin-2-one | ClC=1N=C(C2=C(N1)C=C(S2)CN2C(CN(CC2)S(=O)(=O)C)=O)N2CCOCC2 | C16H20ClN5O4S2
